US05051422
N-(4-Ethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine
In a manner similar to Preparation 29, react 4-ethoxybenzenamine with N-(2-chloroethyl)benzenemethanamine to obtain the title compound.

reactant | 4-ethoxybenzenamine | C(C)OC1=CC=C(C=C1)N | C8H11NO
reactant | N-(2-chloroethyl)benzenemethanamine | ClCCNCC1=CC=CC=C1 | C9H12ClN
product | N-(4-Ethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | C(C)OC1=CC=C(C=C1)NCCNCC1=CC=CC=C1 | C17H22N2O
